US04871743
To a mixture of 65.07 g (1.0 eq) of methyl 4-(4-hydroxybutyl)benzoate and 33.20 (1.05 eq) of triethylamine in 350 mL of anhydrous ethyl ether, stirred under nitrogen and cooled to 0° C., are added in a dropwise fashion, 37.58 g (1.05 eq) of mesityl chloride. A solid forms and the reaction mixture is gradually brought to room temperature and stirred under nitrogen for 4 hours. Four hundred milliliters of water are then added and the organic layer is separated, washed with water, dried over magnesium sulfate, and concentrated to yield methyl 4-(4-mesitylbutyl)benzoate, m.p. 52°-53° C.; IR (KBr) vmax 3010, 2930, 2850, 1700, 1603, 1432, 1334, 1323, 1165, 1104, 937, 822, and 700 cm-1 ; 1H NMR (CDCl3) delta 7.92 (d, J=8.2 Hz, 2H, Ar), 7.22 (d, J=8.2 Hz, 2H, Ar), 4.18-4.22 (m, 2H, CH2OMs), 3.86 (s, 3H OCH3), 2.96 (s, 3H, SO2CH3), 2.65-2.68 (m, 2H, benzyl), 1.72-1.74 (m, 4H, 2° aliphatic).

reactant | methyl 4-(4-hydroxybutyl)benzoate | 65.07 g, 1.0 eq | OCCCCC1=CC=C(C(=O)OC)C=C1 | C12H16O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | mesityl chloride | 37.58 g, 1.05 eq | C1(=C(C(=CC(=C1)C)C)Cl)C | C9H11Cl
reactant | water | Four hundred milliliters | O | H2O
solvent | ethyl ether | 350 mL | C(C)OCC | C4H10O
product | methyl 4-(4-mesitylbutyl)benzoate | C1(=C(C(=CC(=C1)C)C)CCCCC1=CC=C(C(=O)OC)C=C1)C | C21H26O2
